US04405607
(a) H-Phe-Met-ol hydrochloride
A solution of 21.1 g Boc-Phe-Met-ol in 20 ml dioxane is added at 0° C. to 130 ml 5 N HCl in dioxane. After reaction for 1 hour at 0° C., 400 ml ethyl ester are added, the precipitate filtered under suction, washed with ethyl ether and dried over P2O5 and KOH under vacuum, to yield the title compound: [α]D20 =+8.8° (c=1 in DMF), decomposition at 200° C.

reactant | Boc-Phe-Met-ol | 21.1 g | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)CO)C(=O)OC(C)(C)C | C19H30N2O4S
reactant | HCl | 5 N | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | H-Phe-Met-ol hydrochloride | N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)CO.Cl | InChI=1S/C14H22N2O2S.ClH/c1-19-8-7-12(10-17)16-14(18)13(15)9-11-5-3-2-4-6-11;/h2-6,12-13,17H,7-10,15H2,1H3,(H,16,18);1H/t12-,13-;/m0./s1
